US07091353B2
N-[2-(2,6-Dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl]-3-nitro-benzamide I-59
To a suspension of 4-amino-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione (1.10 g, 4 mmol) in THF (30 ml) was added 3-nitrobenzoyl chloride (1.48 g, 8 mmol). The mixture was heated to reflux for 18 hours. The reaction was cooled to room temperature, methanol (2 ml) was added, and the mixture stirred for 1 hour. The solvent was evaporated in vacuo leaving a solid that was slurried in diethyl ether (30 ml) and filtered to give 1.60 g (95%) of product as an off-white solid: mp 245–247° C.; 1H NMR (DMSO-d6) d 10.85 (s, 1H), 10.53 (s, 1H), 8.76 (s, 1H), 8.50–8.37 (m, 3H), 7.95–7.87 (m, 2H), 7.70 (d, J=7.4 Hz, 5.14 (dd, J=5.7 and 12.7 Hz, 1H), 3.02–2.83 (m, 1H), 2.67–2.47 (m, 2H), 2.15–2.07 (m, 1H); 13C NMR (DMSO-d6) d 171.73, 168.79, 167.19, 166.04, 162.85, 147.84, 135.60, 134.79, 132.92, 131.21, 130.19, 126.87, 126.20, 121.69, 118.83, 48.86, 30.51, 21.63; Anal. Calcd. For C20H14N4O7: C, 56.88; H, 3.34; N, 13.27. Found: C, 56.87; H, 3.33; N, 13.05.

reactant | 4-amino-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione | 4 mmol, 1.10 g | NC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O | C13H11N3O4
reactant | 3-nitrobenzoyl chloride | 8 mmol, 1.48 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
reactant | methanol | 2 ml | CO | CH4O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | N-[2-(2,6-Dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl]-3-nitro-benzamide | 1.60 g, 95% | O=C1NC(CCC1N1C(C2=CC=CC(=C2C1=O)NC(C1=CC(=CC=C1)[N+](=O)[O-])=O)=O)=O | C20H14N4O7
